US09403798B2
tert-Butyl 4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]piperidine-1-carboxylate
To a tetrahydrofuran solution (1.0 mL) of 3-(trifluoromethyl)-1H-pyrazole (272 mg, 2.00 mmol), tert-butyl 4-hydroxy-piperidine-1-carboxylate (402 mg, 2.00 mmol), and triphenylphosphine (629 mg, 2.40 mmol), diisopropyl azodicarboxylate (1.36 mL, 2.60 mmol, toluene solution) was added at room temperature and the resultant solution was stirred at room temperature for 22 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure and purified by preparative liquid chromatography to obtain the title compound (289 mg, yield 45%).

reactant | 3-(trifluoromethyl)-1H-pyrazole | 2.00 mmol, 272 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | tert-butyl 4-hydroxy-piperidine-1-carboxylate | 2.00 mmol, 402 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 2.40 mmol, 629 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.60 mmol, 1.36 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 289 mg, yield 45% | FC(C1=NN(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C14H20F3N3O2
